US07049310B2
b) (E)-3-[6-[N-(Methoxycarbonylmethyl)amino]pyridin-3-yl]acrylic acid hydrochloride salt
A solution of 50% TFA in CH2Cl2 (75 mL) was added to tert-butyl (E)-3-[6-[N-(methoxycarbonylmethyl)amino]pyridin-3-yl]acrylate (5.20 g, 17.8 mmole). The reaction was stirred at room temperature for 45 min then was concentrated under vacuum. The residue was taken up in 4.0 N HCl in dioxane (75 mL), stirred for 5 min, then concentrated to dryness under vacuum. The remaining solid was triturated with 1:1 Et2O/petroleum ether, filtered and dried under vacuum to give the title compound (4.87 g, 100%) as a white solid: MS (ES) m/e 237.2 (M+H)+.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl (E)-3-[6-[N-(methoxycarbonylmethyl)amino]pyridin-3-yl]acrylate | 17.8 mmole, 5.20 g | COC(=O)CNC1=CC=C(C=N1)/C=C/C(=O)OC(C)(C)C | C15H20N2O4
reactant | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-[6-[N-(Methoxycarbonylmethyl)amino]pyridin-3-yl]acrylic acid hydrochloride salt | 4.87 g, 100% | Cl.COC(=O)CNC1=CC=C(C=N1)/C=C/C(=O)O | InChI=1S/C11H12N2O4.ClH/c1-17-11(16)7-13-9-4-2-8(6-12-9)3-5-10(14)15;/h2-6H,7H2,1H3,(H,12,13)(H,14,15);1H/b5-3+;
